US05155196
Synthesis of chromene-containing mixture
A mixture of bisphenol A bis(4-propargyloxybenzoate) (20.7 grams), 65 milliliters o-dichlorobenzene and 0.009 milliliters CuCl solution (1 gram CuCl/4 milliliters concentrated hydrochloric acid) is refluxed with stirring for 53 hours. The solution is then cooled to room temperature and filtered, and the solvent is distilled out under vacuum. A dark brown resin remains. Nuclear magnetic resonance analysis shows the ratio of chromene to propargyl ether to be about 53:47. A dynamic scanning calorimetry run shows a polymerization exotherm with a maximum at aobut 291° C. and a heat of polymerization of about 366 joules/gram.

reactant | bisphenol A bis(4-propargyloxybenzoate) | 20.7 grams | C(C#C)OC1=CC=C(C(=O)O)C=C1.C(C#C)OC1=CC=C(C(=O)O)C=C1.OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O
catalyst | CuCl | 0.009 milliliters, 1 gram | Cl[Cu]
solvent | o-dichlorobenzene | 65 milliliters | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | chromene | O1CC=CC2=CC=CC=C12 | C9H8O
